Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / shellfish derived
 
Attending: ___
 
Chief Complaint:
Ms. ___ is a ___ year old right-handed female with a 
PMH notable for HTN, chronic gait unsteadiness, and left ear 
deafness who presented to ___ with right-sided weakness, 
"clumsiness," and poor balance.
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Patient was in her usual state of health neurologically until 
approximately 12 noon today, about ___ hours prior to my 
evaluation.  At that time, she was volunteering at her local 
___.  She was working on decorating the gravestones with 
flowers.  She was taking multiple trips between gravestone and 
her car carrying flowers.  At that time, she suddenly felt 
lightheaded while walking and holding the flowers, and began 
falling towards her right side.  She notes that she felt off 
balance while walking, attributing this both to feeling dizzy 
and weakness in her right leg.  She was able to walk back to the 
gravestone.  When she bends over to put the flowers down, she 
gradually fell to her knees.  She was unable to get up for 
several minutes.  She notes that when she tried to pull herself 
up using her right hand, the arm had difficulty getting the 
strength to pull herself up.  She also notes that she had her 
glasses in her hands, and she was unable to hold onto the 
glasses with her right hand, describing that the right hand felt 
clumsy as well.  Eventually, she was able to use her left side 
to pull herself up.  She was able to walk back towards the car.  
She put the flowers back and the trunk, but then when she was 
attempting to close the trunk, she had difficulty using the 
right hand to close it and accidentally closed the trunk on her 
right index finger.  She again attributes this to clumsiness of 
the right hand.  A nearby bystander helped pry her fingers out 
of the trunk, and guided her to the seated position in her car; 
911 was then called. 

Patient was brought to ___ emergency department.  
Initial blood pressure was 133/82.  Remaining vitals were 
normal. She was noted to have right arm and leg weakness, 
prompting head CT which revealed left basal ganglia IPH. She was 
transferred to ___ for further evaluation.

Of note, she has had 2 recent changes to her routine.  First, 
her daughter notes that over the last few weeks she seems more 
tired, and has been taking naps during the day.  She has had 
acute on chronic dizziness during this time.  The second change 
to her routine is that she has been off and on 
hydrochlorothiazide over the last several months; most recently, 
she self reduced it from 25 mg daily to 12.5 mg daily about 2 
months ago, due to feeling dizzy on the higher dose.

She has a long-standing history of hypertension, and is not 
entirely sure where her blood pressures usually run.  She does 
note that at one point the systolic blood pressure was 180, but 
is unable to provide further details.

Regarding other long-standing issues, she does have a 
long-standing history of dizziness and feeling off balance.  
This has been going on for several years.  At one point, she had 
a viral infection of the left ear, developed worsening vertigo 
at that time, and subsequently had deafness out of the left ear. 
 Despite the chronic dizziness, she is able to ambulate without
assistance of any devices. 

Throughout this time, patient denies any numbness or tingling, 
denies any difficulties understanding or expressing speech, 
denies having headaches now or recently, denies any recent 
falls.
 
On neuro ROS, 
+ Reports right arm and leg weakness, Chronic diplopia, chronic 
gait unsteadiness, chronic L ear deafness
- Denies headache, loss of vision, blurred vision, dysarthria, 
dysphagia, vertigo, tinnitus or hearing difficulty.  Denies 
difficulties producing or comprehending speech.  Denies focal
numbness, parasthesiae. No bowel or bladder incontinence or 
retention. Denies difficulty with gait.
 
On general review of systems:
+ reports recent malaise
- Denies recent fever or chills.  No night sweats or recent 
weight loss or gain. Denies cough, shortness of breath.  Denies 
chest pain or tightness, palpitations.  Denies nausea, vomiting,
diarrhea, constipation or abdominal pain.  No recent change in 
bowel or bladder habits.  No dysuria.  Denies arthralgias or 
myalgias. Denies rash.
 
Past Medical History:
-Hypertension
-Elevated ferritin of unclear etiology.  This was worked up with 
a negative liver biopsy in the past.
-Chronic left ear deafness
-Chronic gait unsteadiness
 
Social History:
___
Family History:
Notable for multiple family members with strokes in elderly age. 
 Her mother had a ischemic stroke in her ___.  Her sister had an 
IPH of unclear etiology.   Her other sister had a traumatic 
intracerebral hemorrhage.

 
Physical Exam:
ADMISSION EXAM:
===============
Vitals: Temperature 98.1, heart rate 61, blood pressure 149/78, 
respiratory rate 18, oxygen 99% on room air
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive to examiner. Language is fluent 
with intact repetition and comprehension. Normal prosody. There 
were no paraphasic errors. Pt was able to name both high and low 
frequency objects.  Able to read without difficulty. Speech was 
not dysarthric. Able to follow both midline and appendicular 
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation via finger 
counting.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength 
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. RUE pronation without 
drift. Mild 2mm postural tremor in b/l UE. No asterixis noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___    ___    5    5    5      5
R  5    ___    ___    4+   5    5      5 

-Sensory: Reduced magnitude of pinprick sensation to 80-90% of 
normal circumferentially in R arm from the level of elbow 
distally, and in R leg from the level of the distal thigh 
distally circumferentially. Proprioception is preserved in right 
index finger, and reduced to small amplitude movements in right 
great toe. No extinction to DSS. 

-DTRs:
  Bi Tri ___ Pat Ach
L  3  2+   2+   2+  2
R  3  2+   2+   2+  2
Plantar response was flexor on left, extensor on right.

-Coordination: No intention tremor. Normal finger-tap 
bilaterally. No dysmetria on FNF bilaterally.

-Gait: Patient declined and subsequently on bed rest for ___ 

DISCHARGE EXAM:
===============
Vitals:  Temp: 98.1 (Tm 98.3), BP: 106/61 (106-132/61-72), HR: 
60
(60-73), RR: 18, O2 sat: 97% (96-100)  

Exam
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: Warm, well-perfused.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without any difficulty. Attentive to examiner. Language is 
fluent
with intact repetition and comprehension. Normal prosody and no
paraphasic errors. Pt was able to name both high and low
frequency objects. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect. Memory
impaired, with ___ registration and ___ recall initially, with
___ recalled with cue and the remaining ___ with multiple 
choice.

-Cranial Nerves:
PERRL. EOMI without nystagmus. Facial sensation intact to light
touch. Face symmetric at rest and with activation. Hearing 
intact
to conversation, although notably impaired on the left. Unable 
to
hear finger-rub bilaterally. Palate elevates symmetrically. ___
strength in trapezii bilaterally. Tongue protrudes in midline
with good movement bilaterally. 

-Motor: Somewhat decreased bulk throughout, consistent with age.
Pronator drift in RUE. ___ strength in RLE. Otherwise, full
strength throughout. 

-Sensory: Sensation to light touch impaired in right upper and
lower extremity compared to the left. No extinction to DSS. 

-DTRs: ___

-___: No intention tremor. Patient struggled with FN on
right, but questionable for weakness vs incoordination as cause.

-Gait: Deferred.

 
Pertinent Results:
Admission Labs:

___ 04:16PM BLOOD WBC-6.2 RBC-4.17 Hgb-12.8 Hct-39.4 MCV-95 
MCH-30.7 MCHC-32.5 RDW-13.2 RDWSD-45.4 Plt ___
___ 04:16PM BLOOD Neuts-55.0 ___ Monos-9.3 Eos-1.3 
Baso-0.3 Im ___ AbsNeut-3.42 AbsLymp-2.10 AbsMono-0.58 
AbsEos-0.08 AbsBaso-0.02
___ 04:16PM BLOOD Plt ___
___ 04:16PM BLOOD ___ PTT-25.9 ___
___ 04:16PM BLOOD Glucose-88 UreaN-25* Creat-0.5 Na-140 
K-4.0 Cl-103 HCO3-24 AnGap-13
___ 04:16PM BLOOD Calcium-9.5 Phos-2.7 Mg-2.0 Cholest-217*
___ 04:21PM BLOOD %HbA1c-5.2 eAG-103
___ 04:16PM BLOOD Triglyc-86 HDL-90 CHOL/HD-2.4 LDLcalc-110
___ 04:16PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

Discharge Labs:

___ 05:15AM BLOOD WBC-4.9 RBC-3.85* Hgb-11.9 Hct-36.2 
MCV-94 MCH-30.9 MCHC-32.9 RDW-13.5 RDWSD-46.2 Plt ___
___ 05:35AM BLOOD ___ PTT-25.5 ___
___ 05:15AM BLOOD Glucose-91 UreaN-22* Creat-0.7 Na-137 
K-4.2 Cl-101 HCO3-26 AnGap-10
___ 05:15AM BLOOD Calcium-9.3 Phos-3.1 Mg-2.1
___ 04:21PM BLOOD %HbA1c-5.2 eAG-103
___ 04:16PM BLOOD Triglyc-86 HDL-90 CHOL/HD-2.4 LDLcalc-110

Imaging:

Non-Contrast CT of Head (___) - Study Date of ___ 
2:32 ___
Notable for 1.5 x 1.86cm IPH in left basal ganglia, affecting 
primarily posterior limb of internal capsule and part of 
external capsule. No intraventricular extension or significant 
mass effect. 

CHEST (PORTABLE AP) - Study Date of ___ 6:22 ___
IMPRESSION: No acute cardiopulmonary abnormality.

CTA HEAD: Wetread - Study Date of ___ 8:13 ___
The vessels of the circle of ___ and their principal 
intracranial branches appear normal without stenosis, occlusion, 
or aneurysm formation. There is persistent fetal circulation of 
the left PCA. Mild atherosclerotic changes are demonstrated at 
the carotid siphons bilaterally. There is focal luminal 
irregularity at the distal left M1 segment (series 3 image 237), 
which may be secondary to atherosclerosis. Focal narrowing at 
the anterior right M2 branch (series 3, image 239) may be 
secondary to atherosclerosis or volume averaging. The dural 
venous sinuses are patent.

CTA NECK: Wetread - Study Date of ___ 8:13 ___
The carotidandvertebral arteries and their major branches appear 
normal with no evidence of high-grade stenosis or occlusion.

ECG - ___ 18:11:37
Sinus rhythm, probable left atrial enlargement, anteroseptal 
infarct, age indeterminate.

MRI Head With/Without Contrast ___
1. Stable left basal ganglia parenchyma hematoma.  Minimal 
peripheral linear enhancement, typical of early subacute 
hematoma.  Follow-up to resolution recommended. 
2. Advanced parenchymal atrophy.. 
3. Findings consistent with severe chronic small vessel ischemic 
changes.. 

 
Brief Hospital Course:
PATIENT SUMMARY:
================
This is a ___ year old right-handed female with HTN, chronic gait 
unsteadiness, and left ear deafness who presented to ___ 
with right-sided weakness, decreased sensation and "clumsiness" 
subsequently found to have left basal ganglia hemorrhage. 

Of note, within the last two months the patient halved her HCTZ 
from 25 mg/day to 12.5 mg/day, per her PCP. Etiology of 
hemorrhage is most likely hypertensive, although the patient has 
been normotensive while monitored at the BI. There was also 
concern for an ischemic stroke with hemorrhagic transformation, 
though there is no evidence of this on MRI.

On examination today, the patient was normotensive for the 
duration of her hospitalization off all anti-hypertensive 
agents. She has ongoing ___ weakness on the right side as well 
as pronator drift. 

Labs were notable for LDL of 110, so she was started on 
atorvastatin 20 mg daily.  

TRANSITIONAL ISSUES:
====================
# Patient's hydrochlorothiazide was held this admission and at 
time of discharge given SBP in 120-130 range without it. Goal is 
normotension thus we did not see  an indication to resume, 
particularly given her history of lightheadedness. Consider 
resuming HCTZ or other antihypertensive agent as an outpatient 
if SBP > 140. 

# Avoid all antiplatelet therapies including aspirin for the 
time being in this patient given her hemorrhage.
 
 
AHA/ASA Core Measures for Intracerebral Hemorrhage  
==================================================
1. Dysphagia screening before any PO intake? (x) Yes - () No.  
If no, reason why:  
2. DVT Prophylaxis administered? () Yes - (x) No. If no, why not 
-> bleeding risk, hemorrhage.
3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form?
(x) Yes - () No  
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No. If no, why not? (I.e. patient at 
baseline functional status) 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 12.5 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Vitamin B Complex 1 CAP PO DAILY 
4. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 

 
Discharge Medications:
1.  Atorvastatin 20 mg PO QPM  
2.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  
3.  Multivitamins 1 TAB PO DAILY  
4.  Vitamin B Complex 1 CAP PO DAILY  
5. HELD- Hydrochlorothiazide 12.5 mg PO DAILY  This medication 
was held. Do not restart Hydrochlorothiazide until ___ are told 
to do so by your doctor.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Intraparenchymal hemorrhage
Hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,  

 ___ were hospitalized due to symptoms of right sided weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
 
 Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  

- High blood pressure
- High cholesterol 

 We are changing your medications as follows:  

- Started atorvastatin 20 mg daily 
- Stopped your hydrochlorothiazide 
  
 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  

 If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
___  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___